US08466282B2
1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazole-4-carboxylic acid
A solution of methyl 7-methoxy-3-oxoheptanoate (2.0 g) in methanol (70 ml) was cooled to 0° C.-5° C., 1-azido-2-fluorobenzene (960 mg) and 28% sodium methoxide methanol solution (2 g) were added and the mixture was stirred at 60° C. for 3 hr. Then, 1N sodium hydroxide (14 ml) was added, and the mixture was stirred at 60° C. for 1 hr. The solvent was evaporated under reduced pressure and water (20 ml) was added to the residue. 1N Hydrochloric acid was added for neutralization and the mixture was extracted with ethyl acetate (50 ml×2). The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (1.61 g) as an oil.

reactant | methyl 7-methoxy-3-oxoheptanoate | 2.0 g | COCCCCC(CC(=O)OC)=O | C9H16O4
reactant | 1-azido-2-fluorobenzene | 960 mg | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | sodium methoxide methanol | 2 g | CO.C[O-].[Na+]
reactant | sodium hydroxide | 1N, 14 ml | [OH-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 1-(2-fluorophenyl)-5-(4-methoxybutyl)-1H-1,2,3-triazole-4-carboxylic acid | 1.61 g | FC1=C(C=CC=C1)N1N=NC(=C1CCCCOC)C(=O)O | C14H16FN3O3
